US06417212B1
B. 2-Methyl-2-(4-{2-[5-methyl-2-(4-naphthalen-1-ylphenyl)oxazol-4-yl]ethoxy}phenoxy)propionic acid
Under nitrogen, 2-methyl-2-(4-{2-[5-methyl-2-(4-naphthalen-1-ylphenyl)oxazol-4-yl]ethoxy}-phenoxy) propionic acid ethyl ester (0.53 mmol) in ethanol (2.5 mL) and THF (2.5 mL) was treated with 2.0 N NaOH (2.0 mL). The reaction mixture was stirred at 55° C. for 1 h and concentrated in vacuo. The resulting slurry was suspended in ethyl acetate, acidified to pH 1 with 1N HCl, and partitioned. The organic layer was washed with brine, dried (Na2SO4), and concentrated in vacuo to yield of a white solid. Rf=0.25 in 6:4 ethyl acetate:hexanes; 1H NMR (400 MHz, CDCl3) δ7.96 (d, 2H), 7.78-7.70 (m, 3H), 7.41-7.29 (m, 6H), 6.78-6.60 (m, 4H), 4.04 (t, 2H), 2.84 (t, 2H), 2.22 (s, 3H), 1.37 (s, 6H); MS (EI) 508.2 (M+H)+.

reactant | 2-methyl-2-(4-{2-[5-methyl-2-(4-naphthalen-1-ylphenyl)oxazol-4-yl]ethoxy}-phenoxy) propionic acid ethyl ester | 0.53 mmol | C(C)OC(C(C)(OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)C1=CC=CC2=CC=CC=C12)C)=O | C34H33NO5
reactant | NaOH | 2.0 N, 2.0 mL | [OH-].[Na+]
solvent | ethanol | 2.5 mL | C(C)O | C2H6O
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 2-Methyl-2-(4-{2-[5-methyl-2-(4-naphthalen-1-ylphenyl)oxazol-4-yl]ethoxy}phenoxy)propionic acid | CC(C(=O)O)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)C1=CC=CC2=CC=CC=C12 | C32H29NO5
